US06348032B1
Dichloromethane (10 ml) and triethylamine (0.760 g) are added to 1-methyl-5-[(2-pyridylmethyl)carbamoyl]benzimidazole (1.00 g). Furthermore, benzenesulfonyl chloride (0.994 g) is dripped into the solution. After stirring for three hours, the reaction solution is washed with water three times, and once more washed with a sodium bicarbonate aqueous solution. An organic layer is concentrated under reduced pressure, purified through silica gel column chromatography (eluate: ethyl acetate/ethanol=9/1) and thus, a mixture of 1-benzenesulfonyl-2-methyl-6-[(2-pyridylmethyl)carbamoyl]benzimidazole and 1-benzenesulfonyl-2-methyl-5-[(2-pyridylmethyl)carbamoyl]benzimidazole (1.38 g) is obtained. Further, this mixture is purified through medium pressure silica gel column chromatography (eluate: ethyl acetate/methanol=100/3) and thus, 0.550 g of oily 1-benzenesulfonyl-2-Methyl-6-[(2-pyridylmethyl)carbamoyl]benzimidazole (189) and 0.540 g of oily 1-benzenesulfonyl-2-methyl-5-[(2-pyridylmethyl)carbamoyl]benzimidazole (190) are obtained. The oily materials are dissolved using methylene chloride (1.5 ml), and then crystallized by adding diethylether. 1H-NMR (CDCl3, δ): 2.84 (3H, s), 4.81 (2H, d, J=4.8 Hz), 7.24 (1H, dd, J=5.1 and 7.3 Hz), 7.37 (1H, d, J=7.7 Hz), 7.53 (2H, dd, J=7.9 and 7.5 Hz), 7.63-7.74 (2H, m), 7.85 (1H, dd, J=8.4 and 1.2 Hz), 7.97 (2H, dd, J=9.6 and 1.1 Hz), 8.58-8.61 (2H, m).

reactant | Dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 1-methyl-5-[(2-pyridylmethyl)carbamoyl]benzimidazole | 1.00 g | CN1C=NC2=C1C=CC(=C2)C(NCC2=NC=CC=C2)=O | C15H14N4O
reactant | benzenesulfonyl chloride | 0.994 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | triethylamine | 0.760 g | C(C)N(CC)CC | C6H15N
product | 1-benzenesulfonyl-2-methyl-5-[(2-pyridylmethyl)carbamoyl]benzimidazole | 1.38 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=NC2=C1C=CC(=C2)C(NCC2=NC=CC=C2)=O)C | C21H18N4O3S
